US06177450B1
A suspension of 2-methoxyphenylmagnesium bromide (prepared from 75.3 g of 2-bromoanisole and 9.8 g of magnesium) in 100 cm3 of dry tetrahydrofuran is added dropwise at room temperature with stirring to a suspension of 20 g of (3aS,7aS)-7,7-diphenyl-2-(tert-butoxycarbonyl)perhydroisoindol-4-one and 31.6 g of anhydrous cerium chloride in 250 cm3 of dry tetrahydrofuran. The reaction mixture is stirred at room temperature for 24 hours, treated with 400 cm3 of a saturated aqueous ammonium chloride solution, diluted with 200 cm3 of ethyl acetate, washed with 300 cm3 of water (twice) and then with 300 cm3 of a saturated aqueous sodium chloride solution, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of Merck silica gel (particle size 0.04-0.06 mm, diameter of 5.8 cm, height 26.5 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (80/20 by volume) and collecting 100 cm3 fractions. Fractions 9 to 29 are combined and concentrated to dryness under reduced pressure (2.7 kPa). There are obtained 17.82 g of (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-(tert-butoxycarbonyl)perhydroisoindol-4-ol in the form of a white foam.

reactant | 2-methoxyphenylmagnesium bromide | 75.3 g | COC1=C(C=CC=C1)[Mg]Br
reactant | (3aS,7aS)-7,7-diphenyl-2-(tert-butoxycarbonyl)perhydroisoindol-4-one | 20 g | C1(=CC=CC=C1)C1(CCC([C@@H]2CN(C[C@H]12)C(=O)OC(C)(C)C)=O)C1=CC=CC=C1 | C25H29NO3
reactant | cerium chloride | 31.6 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | ammonium chloride | 400 cm3 | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 cm3 | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 cm3 | C(C)(=O)OCC | C4H8O2
product | (3aS,4S,7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-(tert-butoxycarbonyl)perhydroisoindol-4-ol | 17.82 g | C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CN(C[C@H]12)C(=O)OC(C)(C)C)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C32H37NO4
